US08124764B2
To a solution of 3-bromo-imidazo[1,2-a]pyridine (1 g, 5.1 mmol) in dry THF (25 mL) under N2 at −78° C. was added n-BuLi (1.6 M in hexanes, 3.8 mL, 6.12 mmol) and the reaction mixture was stirred at that temperature for 1 hour. Then freshly dried zinc bromide (1.7 g, 7.65 mmol) in dry THF (15 mL) was added slowly and the reaction mixture was slowly warmed up to room temperature and 4,6-dichloro-pyrimidine (760 mg, 5.1 mmol) and Pd(PPh3)4 (294 mg, 0.26 mmol) was added. After 16 hours at 75° C., the reaction mixture was then concentrated and directly purified by flash chromatography (SiO2, 95:5:0.5/EtOAc:MeOH:TEA) to give 3-(6-chloro-pyrimidin-4-yl)-imidazo[1,2-a]pyridine (Int-1). MS found for C11H7ClN4 as (M+H)+ 231.45. To a solution of Int-1 (100 mg, 0.44 mmol), 4-amino-benzoic acid (72 mg, 0.52 mmol) in dioxane (3 mL) and 2-PrOH (0.5 mL), p-TSA (83 mg, 0.44 mmol) was added and heated in a microwave (Emry's Optimizer) at 130° C. After 20 minutes, the resulting solid was filtered and washed with ether and dried to give 4-(6-imidazo[1,2-a]pyridin-3-yl-pyrimidin-4-ylamino)-benzoic acid (Int-2). MS found for C18H13N5O2 (m/z): 332.39 [M++1]. To Int-2 (75 mg, 0.23 mmol) in DMF (4 mL), was added HATU (129 mg, 0.34 mmol), 1,2-phenylenediamine (49 mg, 0.45 mmol) and DIPEA (0.12 mL, 0.68 mmol) and stirred at room temperature for 45 minutes. The reaction mixture was diluted with water and acetonitrile and directly purified by preparative HPLC affording the title compound as tan solid, after lyophilization. MS found for C24H19N7O as (M+H)+ 422.09. 1H NMR (400 MHz, dmso-d6): δ 9.89 (d, J=6.8 Hz, 1H); 8.71 (s, 1H); 8.19 (s, 1H); 7.92 (d, J=8.8 Hz, 2H); 7.80 (d, J=8.8 Hz, 2H); 7.61 (d, J=9.2 Hz, 1H); 7.42 (t, J=7.6 Hz, 1H); 7.13-6.97 (m, 4H); 6.83 (d, J=7.2 Hz, 1H); 6.69 (t, J=7.6 Hz, 1H).

reactant | 3-bromo-imidazo[1,2-a]pyridine | 5.1 mmol, 1 g | BrC1=CN=C2N1C=CC=C2 | C7H5BrN2
reactant | n-BuLi | 6.12 mmol, 1.6 M, 3.8 mL | [Li]CCCC
reactant | 4,6-dichloro-pyrimidine | 5.1 mmol, 760 mg | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
catalyst | zinc bromide | 7.65 mmol, 1.7 g | [Br-].[Zn+2].[Br-]
catalyst | Pd(PPh3)4 | 0.26 mmol, 294 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(6-chloro-pyrimidin-4-yl)-imidazo[1,2-a]pyridine | ClC1=CC(=NC=N1)C1=CN=C2N1C=CC=C2 | C11H7ClN4
